US09315495B2
The compound was synthesized as in Example 3.1 using 5-bromothiophene-2-carbaldehyde (250 mg, 1.31 mmol) in place of 5-bromo-2-formylfuran and pentylboronic acid (250 mg, 2.16 mmol) in place of hexylboronic acid to give 5-pentylthiophene-2-carbaldehyde (161 mg, 67%). Used without further characterization.

reactant | 5-bromothiophene-2-carbaldehyde | 1.31 mmol, 250 mg | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | pentylboronic acid | 2.16 mmol, 250 mg | C(CCCC)B(O)O | C5H13BO2
product | 5-pentylthiophene-2-carbaldehyde | 161 mg, 67% | C(CCCC)C1=CC=C(S1)C=O | C10H14OS
